US04093812
At 10° to 20° C add 77 g of phosphorus oxychloride dropwise to 183 g of dimethylformamide. Stir for 30 minutes at room temperature and, at a temperature not exceeding 40° C, add thereto 55.7 g of 5-nitro-2-acetylfuran-phenylhydrazone. Stir under nitrogen for 1 hour at this temperature and then for 2.5 hours at 50° C. Pour the resulting solution (containing 4-pyrazolylmethylenedimethylammonium salt) onto 2.5 kg of ice and water. Heat for 2 hours at 40° C before vacuum filtering at 20° to 30° C. Wash the residue well with water to obtain a 98% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde [m.p. 208° to 209° C (from dimethylformamide/water)].

reactant | phosphorus oxychloride | 77 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 183 g | CN(C=O)C | C3H7NO
reactant | 5-nitro-2-acetylfuran-phenylhydrazone | 55.7 g | C1(=CC=CC=C1)NN=C(C)C=1OC(=CC1)[N+](=O)[O-] | C12H11N3O3
reactant | 4-pyrazolylmethylenedimethylammonium | N1N=CC(=C1)C=[N+](C)C
solvent | water | O | H2O
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde | 98% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=O)C1=CC=CC=C1 | C14H9N3O4
